US07776875B2
Preparation of Intermediate N-tert-butyl-C-chloro-methanesulfonamide
At 0° C., to a mixture of tert-butylamine (10.3 g, 141 mmol) and N-methylmorpholine (14.9 g, 147 mmol) in diethyl ether (200 mL) was added dropwise a solution of chloromethanesulfonyl chloride (20 g, 134 mmol) in diethyl ether (400 mL). After stirred for 5 h, the solution was diluted with ethyl acetate (200 mL). The organic phase was washed with HCl solution (1 N), water and brine, dried over anhydrous Na2SO4 and concentrated to give the title compound as a colorless oil (16 g).

reactant | tert-butylamine | 141 mmol, 10.3 g | C(C)(C)(C)N | C4H11N
reactant | N-methylmorpholine | 147 mmol, 14.9 g | CN1CCOCC1 | C5H11NO
reactant | chloromethanesulfonyl chloride | 134 mmol, 20 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-tert-butyl-C-chloro-methanesulfonamide | 16 g | C(C)(C)(C)NS(=O)(=O)CCl | C5H12ClNO2S
